US08008497B2
6-(2-Methoxy-4-methoxycarbonyloxyphenyl)-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 3-1)
6-(4-Hydroxy-2-methoxyphenyl)-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 3-2, 31.7 mg, 0.0705 mmol) was dissolved in anhydrous methylene dichloride (1 mL), triethylamine (30 μL, 0.22 mmol) and methyl chlorocarbonate (10 μL, 0.13 mmol) were added thereto, and then the mixture was stirred at room temperature for 1 hour. The reaction mixture was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (26.8 mg) as a pale yellow amorphous product. (Yield 79%)

reactant | 6-(4-Hydroxy-2-methoxyphenyl)-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 0.0705 mmol, 31.7 mg | OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC(=O)C=1SC(=CC1)C)OC | C26H27NO4S
reactant | triethylamine | 0.22 mmol, 30 μL | C(C)N(CC)CC | C6H15N
reactant | methyl chlorocarbonate | 0.13 mmol, 10 μL | C(OC)(=O)Cl | C2H3ClO2
solvent | methylene dichloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 6-(2-Methoxy-4-methoxycarbonyloxyphenyl)-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 26.8 mg, Yield 79% | COC1=C(C=CC(=C1)OC(=O)OC)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC(=O)C=1SC(=CC1)C | C28H29NO6S
